US05273986
A mixture composed of 9.7 g of cyclobutancarbothioamide, 16.5 g of ethyl bromopyruvate and 200 ml of ethyl alcohol was heated to reflux for 1 hr. The reaction mixture was partially condensed in vacuo and the residual materials were diluted with ice water and and excess of saturated sodium bicarbonate solution. The solids were collected to yield 7.0 g of 2-cyclobutyl-4-thiazolecarboxylic acid ethyl ester; m.p. 48°-50° C. after recrystallization from pentane.

reactant | cyclobutancarbothioamide | 9.7 g | C1(CCC1)C(N)=S | C5H9NS
reactant | ethyl bromopyruvate | 16.5 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | 2-cyclobutyl-4-thiazolecarboxylic acid ethyl ester | 7.0 g | C(C)OC(=O)C=1N=C(SC1)C1CCC1 | C10H13NO2S
